US09227956B2
tert-butyl (3R)-3-[(4-bromobenzoyl)(3-methylpyridin-2-yl)amino]piperidine-1-carboxylate
To a solution of Preparation 2 (R)-tert-butyl 3-((3-methylpyridin-2-yl)amino)piperidine-1-carboxylate (33.3 g, 114 mmol) and 4-bromobenzoyl chloride (26.3 g, 120 mmol) in dry THF (300 mL) was added 1 M lithium bis(trimethylsilyl)amide (137 mL, 137 mmol) dropwise at 0° C. The reaction mixture was warmed and stirred at room temperature for 16 h. The reaction was quenched with water and extracted with EtOAc (3×1000 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered, and the filtrate was concentrated in vacuo. The residue was purified by silica gel chromatography to afford the title compound as a yellow solid (27 g, 50%).

reactant | (R)-tert-butyl 3-((3-methylpyridin-2-yl)amino)piperidine-1-carboxylate | 114 mmol, 33.3 g | CC=1C(=NC=CC1)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C16H25N3O2
reactant | 4-bromobenzoyl chloride | 120 mmol, 26.3 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | lithium bis(trimethylsilyl)amide | 137 mmol, 1 M, 137 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | tert-butyl (3R)-3-[(4-bromobenzoyl)(3-methylpyridin-2-yl)amino]piperidine-1-carboxylate | 27 g, 50% | BrC1=CC=C(C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C2=NC=CC=C2C)C=C1 | C23H28BrN3O3
